US06225318B1
{6-[3-(Benzyl-methyl-amino)-prop-1-ynyl]-quinazolin-4-yl}-(1H-indol-5-yl)-amine
The title compound was synthesized according to the method of Example 2 using (1H-indol-5-yl)-(6-iodo-quinazolin-4-yl)-amine (200 mg, 0.517 mmol), N-Methyl-n-proparglylbenzylamine (246 mg, 1.596 mmol) and diethyl amine (189 gm, 2.59 mmol) in 2 mL, of dimethylformamide (DMF).

reactant | (1H-indol-5-yl)-(6-iodo-quinazolin-4-yl)-amine | 0.517 mmol, 200 mg | N1C=CC2=CC(=CC=C12)NC1=NC=NC2=CC=C(C=C12)I | C16H11IN4
reactant | diethyl amine | 2.59 mmol, 189 gm | C(C)NCC | C4H11N
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | {6-[3-(Benzyl-methyl-amino)-prop-1-ynyl]-quinazolin-4-yl}-(1H-indol-5-yl)-amine | C(C1=CC=CC=C1)N(CC#CC=1C=C2C(=NC=NC2=CC1)NC=1C=C2C=CNC2=CC1)C | C27H23N5
